US06465507B2
PyBOP (3.5 g, 6.72 mmol) was added to a mixture of 5-carboxy-2-oxindole (1 g, 5.6 mmol), pyrrolidine (0.5 mL, 6.2 mmol) and triethylamine (2.0 mL, 14 mmol) in dichloromethane. After stirring at room temperature for 4 hours, the reaction was diluted with more dichloromethane, washed with saturated sodium bicarbonate and brine, dried and concentrated. The residue was purified by column chromatography to give 5-(pyrrolidine-1-carbonyl)-1,3-dihydro-indol-2-one.

reactant | PyBOP | 6.72 mmol, 3.5 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 5-carboxy-2-oxindole | 5.6 mmol, 1 g | C(=O)(O)C=1C=C2CC(NC2=CC1)=O | C9H7NO3
reactant | pyrrolidine | 6.2 mmol, 0.5 mL | N1CCCC1 | C4H9N
reactant | triethylamine | 14 mmol, 2.0 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(pyrrolidine-1-carbonyl)-1,3-dihydro-indol-2-one | N1(CCCC1)C(=O)C=1C=C2CC(NC2=CC1)=O | C13H14N2O2
